OpenCircuit factory test: forward_02.cir
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8586175000180744192
* Revision: BAS321 v4, 1 July 2022
.model OC_NEXPERIA_BAS321-115 D(IS=4.1818003378e-15 N=1.1037982665e0 RS=8.0838061825e-1)

.temp 25
Itest 0 anode DC 5.0000000000e-2
Vanchor anchor 0 DC 0
Ranchor anchor 0 1G
Ddut anode 0 OC_NEXPERIA_BAS321-115
.op
.end
